US09216943B2
Preparation of 1-(2-iodoethyl)-4-octylbenzene
4-Octylphenethylmethane sulfonate (70 g) and dry tetrahydrofuran (500 mL) are charged into a 1 liter single-neck round bottom flask, equipped with a calcium chloride guard tube and shielded with light protecting black cover. The mixture is stirred for 10 minutes, then sodium iodide (133 g) is added and the mixture is stirred overnight at room temperature. The solvent is evaporated under vacuum and the residue is dissolved in water (300 mL) and extracted with ethyl acetate (2×250 mL). Ethyl acetate extracts are combined, washed with aqueous sodium thiosulphate, dried with sodium sulphate, and concentrated under vacuum to give the title compound. Yield: 70 g.

reactant | 4-Octylphenethylmethane sulfonate | 70 g | C(CCCCCCC)C1=CC=C(CCCS(=O)(=O)[O-])C=C1
reactant | sodium iodide | 133 g | [I-].[Na+]
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 1-(2-iodoethyl)-4-octylbenzene | ICCC1=CC=C(C=C1)CCCCCCCC | C16H25I
